US07241791B2
Step 2: 7-Chloro-3-(3-fluoro-4-methoxyphenyl)-1H-indazole
Prepared according to Method D, Step A from (3-chloro-2-fluorophenyl)(3-fluoro-4-methoxyphenyl)methanone (0.80 g, 2.83 mmol), hydrazine hydrate (1 mL), dimethyl-aminopyridine (0.390 g) and pyridine (5 mL). The reaction mixture was combined with a previous batch at this stage and the title compound was obtained as a white solid and recrystallized from ethyl acetate/hexane (1.30 g, 4.79 mmol, 83%).

reactant | (3-chloro-2-fluorophenyl)(3-fluoro-4-methoxyphenyl)methanone | 2.83 mmol, 0.80 g | ClC=1C(=C(C=CC1)C(=O)C1=CC(=C(C=C1)OC)F)F | C14H9ClF2O2
reactant | hydrazine hydrate | 1 mL | O.NN
reactant | dimethyl-aminopyridine | 0.390 g | CC1=C(C(=NC=C1)N)C | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 7-Chloro-3-(3-fluoro-4-methoxyphenyl)-1H-indazole | ClC=1C=CC=C2C(=NNC12)C1=CC(=C(C=C1)OC)F | C14H10ClFN2O
